* C:\Users\alee2\Documents\GitHub\AnalogDigitalComms_HardwareRadio\Mixer\GilbertCell_w_o_stabilizer.asc
Q1 N001 N003 N005 0 2N3904
Q2 N002 N004 N005 0 2N3904
Q6 N005 N007 N009 0 2N3904
R1 0 Input1 50
R2 Vcc N001 270
R3 Vcc N002 270
R4 N009 0 270
V3 Vcc 0 12
Q3 N001 N004 N006 0 2N3904
Q4 N002 N003 N006 0 2N3904
Q5 N006 N008 N009 0 2N3904
C2 N003 Input1 0.1µ
V1 Input1 0 SINE(1m 0.25 1.1g)
R13 0 N004 2.2k
R14 0 N003 2.2k
R15 0 N008 2.2k
E1 out 0 N001 N002 1
V2 Input2 0 SINE(1m .5 0.525g)
R5 0 Input2 50
C1 N007 Input2 0.1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\alee2\AppData\Local\LTspiceXVII\lib\cmp\standard.bjt
.include engr2420.sub
.tran 0 1000n 0 100p
.backanno
.end
