* C:\Users\clee4\Documents\2021-2022\AD Comms\AnalogDigitalComms_HardwareRadio\colpitts\Draft1.asc
V3 +5V 0 5
V4 +2.5V 0 2.5
V5 0 -5V 5
XU5 0 N023 +5V -5V log_out LT1413
R7 N023 N026 10k
D4 N023 log_out D
V6 N026 0 SINE(2.5 1 20000)
R8 N024 +2.5V 10k
R9 N024 +0.5V 10k
XU6 0 N024 +5V -5V adder_out LT1413
R10 adder_out N024 10k
V7 +0.5V 0 .5
D5 log[cos] N025 D
XU7 0 N025 +5V -5V antilog_out LT1413
R11 antilog_out N025 10k
XU8 0 N017 +5V -5V log[cos] LT1413
R12 N017 log_out 10000
R13 log[cos] N017 10000
V8 4.85V 0 4.85V
XU12 0 N001 +5V -5V N002 LT1413
XU13 0 N014 +5V -5V N015 LT1413
R22 N001 carrier 10k
R23 N014 N016 10k
D6 N001 N002 D
D7 N014 N015 D
R24 N003 N002 10k
R25 N003 N015 10k
XU14 0 N003 +5V -5V N004 LT1413
R26 N004 N003 10k
D8 N004 N005 D
XU15 0 N005 +5V -5V N006 LT1413
R27 N006 N005 10k
V9 N016 0 SINE(2.5 .3 2000)
V10 N008 0 SINE(2.5 1 60k)
R28 N007 N006 10k
R29 N007 4.85V 10k
XU16 0 N007 +5V -5V v_out LT1413
R30 v_out N007 1000k
L1 N018 N020 10m
R1 N019 N020 47k
R2 colpitts N019 109k
R3 colpitts N018 47k
C1 N018 0 22n
C2 N020 0 22n
XU1 0 N019 +5V -5V colpitts LT1413
R4 N021 colpitts 10k
R5 N021 +2.5V 10k
XU2 N021 N022 +5V -5V carrier LT1413
R14 carrier N022 10k
R6 0 N022 10k
D1 v_out N009 D
R15 N009 0 10000
C3 N009 0 1.6n
R16 message N009 10000
C4 message 0 26n
XU3 message N012 +5V -5V N010 LT1413
R17 N010 N012 30k
R18 0 N012 10k
R19 N011 N010 10k
R20 N011 -2.5V 10k
XU4 N011 N013 +5V -5V out LT1413
R21 out N013 1250k
R31 0 N013 10k
V1 0 -2.5V 2.3
.model D D
.lib C:\Users\clee4\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.101 0.1 uic
.lib LTC.lib
.backanno
.end
